US07253286B2
N-(4-(2-Phenylpyridin-4-yl)oxyphenyl)-N′-(4-fluorophenyl)urea
4-(2-Phenylpyridin-4-yl)oxyaniline (110 mg, 0.42 mM) was added to ethyl acetate (10 ml), and then parafluorophenyl isocyanate (0.56 ml, 4.9 mM) was added while stirring, which was continued for 30 minutes. After adding n-hexane (20 ml) to the reaction solution, the solvent was partially distilled off under reduced pressure and the precipitating solid was filtered out to obtain the target substance (98 mg) as a gray solid.

reactant | 4-(2-Phenylpyridin-4-yl)oxyaniline | 0.42 mM, 110 mg | C1(=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C17H14N2O
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | parafluorophenyl isocyanate | 4.9 mM, 0.56 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | n-hexane | 20 ml | CCCCCC | C6H14
product | N-(4-(2-Phenylpyridin-4-yl)oxyphenyl)-N′-(4-fluorophenyl)urea | C1(=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C24H18FN3O2
